Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
diarrhea, afib
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
  

CC: diarrhea x5 days

HPI: ___ ("Sister ___ with hx of htn,
GERD presenting with watery diarrhea x5 days with associated
fevers. Pt describes onset of watery diarrhea on ___,
exacerbated by food. She describes stool as watery, nonbloody,
with small amount of dark brown material, and associated
intermittent fecal incontinence. She has never had similar
episodes in the past. She noted decreased volume with increased
frequency in the days prior to admission. On ___, she began
to feel "sick," with fevers, nausea. Her fever was as high as
102, came down to 101 with advil 600 mg q4-5h. She denies
abdominal pain, but endorses nausea without emesis. Denies chest
pain, DOE, but has noted rare palpitations, maybe ___ times per
year, self resolved after ___ minutes. At urgent care, she was
found to have new afib with RVR (HR 120s-140s), SBP 90. CBC was
notable for WBC 4.4 with 19% bands. She received 1.5L IVF, and
transferred to ___ for further evaluation. Last travel was ___ to ___ and ___. At the ___, sisters eat
the same food; no one else is sick now. There are 17 nuns living
at the ___, and 4 cats. She denies ___ edema, no recent
travel. Endorses orthostasis, no dizziness at rest when lying in
bed.

Of note, PCP note dated ___ specifically mentions that she
"sometimes gets fluttering in her chest."

In the ___ ED:
VS 98.7->99.7->99.2, 139-->102, 93/49--->115/61, 98% RA
Exam notable for CV irregularly irregular, abdomen soft,
nontender
Labs notable for WBC 4.4 (1 band, 80%N), BUN 5. Cr 0.6, K 4.1,
INR 1.3, Lactate 1.2

Imaging:
CT abd/pelvis without contrast:
Mild diffuse colonic wall thickening of the descending colon
without
significant surrounding inflammatory changes concerning for mild
colitis of
ischemic, infectious, or inflammatory origin.

Received:
Ceftriaxone/flagyl
IVF - 3+L IVF
Zofran

On arrival to the floor, pt confirms above history. She denies
recent travel, antibiotics, sick contacts.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
PMH, per prior notes, confirmed with pt:
___
Hypertension
Mitral valve prolapse
 
Social History:
___
Family History:
Family History, per prior notes: Mother has a history of hiatal
hernia and GERD. She also has problems with peripheral vascular
disease and perhaps even inflammatory bowel disease, the details
are unknown, told pt she had "colitis," on prednisone for a
prolonged period. Father died from liver cirrhosis. She has an
older male sibling who has GERD of a more classic nature.

 
Physical Exam:
Physical Exam:
VS: 99.4, 98, 121/68, 97% RA
GEN: pleasant female lying in bed, alert and interactive,
comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, moist mucus membranes, ears without lesions 
or
apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm with ___ systolic murmur
at LUSB
LUNGS: faintly diminished breath sounds at bilateral bases, no
crackles or wheeze
GI: soft, nontender, without rebounding or guarding, 
nondistended
with hyperactive bowel sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: A&Ox3, cranial nerves II-XII grossly intact, strength and
sensation grossly intact
PSYCH: normal mood and affect
.
discharge exam:
___ 1249 Temp: 98.3 PO BP: 147/74 HR: 18 RR: 92 O2 sat: RA 
General:  in NAD, lying in bed.
HEENT:  OP moist, no LAD, no scleral icterus
Resp CTA B, no rales, wheezes
CV RRR with few extra beats
GI soft, less tender to palpation.
MS:  no edema
Neuro:  alert/oriented X3, smiling with symmetric face, moving 
all extremities.

 
Pertinent Results:
LAB REVIEW:
___ 04:14PM BLOOD WBC: 4.4 RBC: 3.70* Hgb: 11.7 Hct: 34.9
MCV: 94 MCH: 31.6 MCHC: 33.5 RDW: 12.6 RDWSD: 43.___ 
___ 01:37PM BLOOD WBC: 4.4 RBC: 3.89* Hgb: 12.3 Hct: 35.5
MCV: 91 MCH: 31.6 MCHC: 34.6 RDW: 12.5 RDWSD: 41.___ 
___ 04:14PM BLOOD Neuts: 80* Bands: 1 Lymphs: 10* Monos: 6
Eos: 3 Baso: 0 Atyps: ___ Metas: ___ Myelos: 0 AbsNeut: 3.56 
AbsLymp:
0.44* AbsMono: 0.26 AbsEos: 0.13 AbsBaso: 0.00* 
___ 01:37PM BLOOD Neuts: 46 Bands: 19* Lymphs: 18* Monos:
15* Eos: 0 Baso: 0 Atyps: ___ Metas: 1* Myelos: 1* AbsNeut: 2.86
AbsLymp: 0.79* AbsMono: 0.66 AbsEos: 0.00* AbsBaso: 0.00* 
___ 04:14PM BLOOD ___: 14.1* PTT: 23.8* ___: 1.3* 
___ 04:14PM BLOOD Glucose: 130* UreaN: 5* Creat: 0.6 Na: 
140
K: 4.1 Cl: 106 HCO3: 21* AnGap: 13 
___ 04:14PM BLOOD Calcium: 8.3* Phos: 3.2 Mg: 1.8 
___ 04:35PM BLOOD Type: ___ pO2: 44* pCO2: 43 pH: 7.39
calTCO2: 27 Base XS: 0 
___ 04:22PM BLOOD Type: ART pO2: 129* pCO2: 32* pH: 7.45
calTCO2: 23 Base XS: 0 
___ 04:22PM BLOOD Lactate: 1.2 
___ 03:27PM URINE Color: Yellow Appear: Clear Sp ___: 
1.003

___ 03:27PM URINE Blood: TR* Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: 0.2 pH: 5.5 
Leuks:
NEG 
___ 03:27PM URINE RBC: ___ WBC: ___ Bacteri: RARE Yeast:
NONE Epi: ___ 

Microbiology:
blood cultures from admission without growth
C diff negative
no enteric pathogens - campylobacter or salmonella
Urine culture negative.

 
IMAGING - images and reports reviewed:
EKG: afib at 137 bpm, normal axis, normal intervals, TWI in II,
III, aVF, submm ST depressions in II, no priors for comparison
 
CT abd/pelvis without contrast:
IMPRESSION:  
Mild diffuse colonic wall thickening of the descending colon
without significant surrounding inflammatory changes concerning
for mild colitis of ischemic, infectious, or inflammatory 
origin.
No free air or drainable fluid collection seen. 

ECHO ___:
CONCLUSION:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global
left ventricular systolic function. The visually estimated left 
ventricular ejection fraction is >=55%. There is no resting left 
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. The 
aortic valve leaflets (3) are mildly
thickened. There is no aortic valve stenosis. There is mild [1+] 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation.
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is no 
pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function. Mild aortic regurgitation. Sinus rhythm present during 
study.

KUB ___:  normal gas pattern

Discharge labs:

___ 10:50AM BLOOD WBC-8.7 RBC-3.41* Hgb-10.7* Hct-31.3* 
MCV-92 MCH-31.4 MCHC-34.2 RDW-12.2 RDWSD-41.0 Plt ___
___ 10:50AM BLOOD Glucose-120* UreaN-3* Creat-0.5 Na-141 
K-4.4 Cl-102 HCO3-27 AnGap-12
___ 10:50AM BLOOD ALT-38 AST-46* AlkPhos-104 TotBili-0.___ ("Sister ___ nun with hx
of htn, GERD presenting with colitis, found to have new afib 
with
RVR.

# Diarrhea:
# Colitis: DDx includes infectious, inflammatory, ischemic. 
Interestingly, pt recounts a history of colitis in her mother, 
with enough detail (colitis, treatment with prednisone) to 
strongly suggest a diagnosis of IBD. With respect to infection,
pt has no specific risk factors for infectious diarrhea: she 
denies travel, PO intake aside from food served to all sisters 
at her convent, and no sick contacts. She has no recent 
hospitalization or antibiotic exposure. She has no history to
suggest diagnosis of ischemic colitis, unless 
infectious/inflammatory diarrhea produced hypotension, with 
ischemic colitis compounding an inciting event.  She had 
negative stool cultures.  She was placed on Cipro and Flagyl for 
a few days but developed nausea while on these and they were 
stopped.  Bowel movements were slowly improved and eventually 
improved with addition of midodrine ultimately able to tolerate 
an oral diet.  Given the improvement without significant 
intervention about the bloody stool, this was most likely from 
infectious cause.  She should however have follow-up colonoscopy 
to ensure that there is no other underlying etiology for the 
diarrhea.  She was discharged on a low fiber diet.

# Atrial fibrillation: Pt reports history of symptoms suggestive 
of pAF, now back in sinus rhythm with appropriate fluid 
resuscitation. She did not require rate control with nodal 
blocker. CHADS2-Vasc is 2.  Her echo was essentially normal with 
normal atrial sizes.  TSH was normal at 1.6.  She remained in 
normal sinus rhythm throughout her hospitalization.  After 
discussion of the pros and cons of anticoagulation she was 
started on apixaban without difficulty.  She was not started on 
any rate control agents.  Further rhythm monitoring could be 
considered if she has symptomatic palpitations.

Chronic issues:

# Hypertension: 
- Held home losartan in setting of afib with RVR, colitis, and
associated hypotension, restarted at dc

# GERD: Pt reports taking both ranitidine qHS and protonix BID.
- Held home ranitidine
- Continue home PPI

# HLD:
- Continue home simvastatin

Transitional issues:
Should have follow-up colonoscopy within the next few months to 
ensure no underlying etiology for her diarrhea and colitis.
___ require heart rate monitoring possibility if she develops 
palpitations.

 

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Ranitidine 300 mg PO QHS 
3. Simvastatin 10 mg PO QPM 
4. Pantoprazole 40 mg PO Q12H 
5. Alendronate Sodium 70 mg PO QSUN 
6. Calcium Carbonate 500 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Docusate Sodium 100 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*8 Tablet Refills:*0 
4.  Alendronate Sodium 70 mg PO QSUN  
5.  Calcium Carbonate 500 mg PO DAILY *AST Approval Required* 
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Losartan Potassium 50 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Pantoprazole 40 mg PO Q12H  
10.  Ranitidine 300 mg PO QHS  
11.  Simvastatin 10 mg PO QPM  
12.  Vitamin D ___ UNIT PO DAILY  
13. HELD- Docusate Sodium 100 mg PO DAILY  This medication was 
held. Do not restart Docusate Sodium until diarreha resolves

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation with rapid ventricular response
Colitis
Nausea
Dehydration
 
Discharge Condition:
Tolerating diet, stable vital signs
 
Discharge Instructions:
It was a pleasure caring for you at the ___ 
___.

Why were you hospitalized?
You found to have a very fast and irregular heart rate at the 
urgent care ___ while you are having diarrhea.  This is 
called atrial fibrillation  
You were also dehydrated from the diarrhea.

What did we do?
You had a CT scan that showed inflammation of your colon 
consistent with likely a infection.
You were treated with antibiotics for a few days but all of the 
cultures were negative and so they were stopped. 
Your heart rate went back to normal and so you did not need any 
medicine to control it.
You were started on a blood thinning medication to reduce the 
risk of stroke associated with the atrial fibrillation which 
should you do at home?
Take all your medications as prescribed
Continue to follow a low fiber diet until you are feeling 
completely back to normal.  Try to avoid dairy products.
 
Followup Instructions:
___